US04278802
Methyl α-methylthio-α-(m-benzoylphenyl)propionate (628 mg) was dissolved in 2 ml of anhydrous methanol, and 1.5 ml (2.34 M) of a methanol solution of sodium salt of methyl mercaptan was added. The mixture was heated under reflux for 1.5 hours. After cooling, an aqueous solution of ammonium chloride (2.0 g/10 ml) was added to stop the reaction. The reaction mixture was diluted with 10 ml of water, and then extracted with 30 ml of diethyl ether and then twice with 10 ml of diethyl ether. The extract was washed with 20 ml of a saturated aqueous solution of sodium hydrogen carbonate and then with 5 ml of water, and dried over anhydrous sodium sulfate. The product was concentrated under reduced pressure, and the residue (377 mg) was chromatographed on a silica gel column using methylene chloride as an eluent to afford 363 mg of methyl α-(m-benzoylphenyl)propionate as a colorless oil in a yield of 68%.

reactant | Methyl α-methylthio-α-(m-benzoylphenyl)propionate | 628 mg | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C18H18O3S
reactant | sodium | [Na] | Na
reactant | methyl mercaptan | CS | CH4S
reactant | ammonium chloride | 10 ml, 2.0 g | [Cl-].[NH4+]
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | methanol | 2.34 M, 1.5 ml | CO | CH4O
product | methyl α-(m-benzoylphenyl)propionate | 363 mg, yield of 68% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C(=O)OC)C | C17H16O3
